US07618978B2
N-Methyl-5-(2-methylacryloyl)-N-propyl-isophthalamic acid N-Methyl-5-(2-methylacryloyl)-N-propyl-isophthalamic acid methyl ester
Dissolve N-methyl-N-propyl-5-tributylstannanyl-isophthalamic acid methyl ester (885 mg, 168 mmol), 2-methyl-acryloyl chloride (172 mg, 1.64 mmol), tris(dibenzylideneacetone)dipalladium (46 mg, 0.05 mmol) and tricyclohexylphosphine (46 mg, 0.16 mmol)) in chloroform (15.5 mL) in a previously degassed vessel. Flush the mixture with nitrogen gas and heat the sealed mixture overnight at 60° C. Cool to room temperature and filter though a filtering agent. Concentrate the filtrate and purify (silica gel chromatography, eluting with 0:100 to 20:80 ethyl acetate:hexanes) to give the title compound.

reactant | N-methyl-N-propyl-5-tributylstannanyl-isophthalamic acid methyl ester | 168 mmol, 885 mg | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)[Sn](CCCC)(CCCC)CCCC)=O
reactant | 2-methyl-acryloyl chloride | 1.64 mmol, 172 mg | CC(C(=O)Cl)=C | C4H5ClO
reactant | tricyclohexylphosphine | 0.16 mmol, 46 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | chloroform | 15.5 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | tris(dibenzylideneacetone)dipalladium | 0.05 mmol, 46 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-Methyl-5-(2-methylacryloyl)-N-propyl-isophthalamic acid N-Methyl-5-(2-methylacryloyl)-N-propyl-isophthalamic acid methyl ester | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(C(=C)C)=O)=O.CN(C(C=1C=C(C(=O)O)C=C(C1)C(C(=C)C)=O)=O)CCC | InChI=1S/C17H21NO4.C16H19NO4/c1-6-7-18(4)16(20)13-8-12(15(19)11(2)3)9-14(10-13)17(21)22-5;1-5-6-17(4)15(19)12-7-11(14(18)10(2)3)8-13(9-12)16(20)21/h8-10H,2,6-7H2,1,3-5H3;7-9H,2,5-6H2,1,3-4H3,(H,20,21)
